US07414061B2
a) 3-{5-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid ethyl ester
As described for Example 3, 3-(3-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole (2.43 g, 10 mmol) was converted, using of 3-ethoxycarbonylphenylboronic acid instead of 4-fluorophenylboronic acid, through chromatography (SiO2, ethyl acetate: hexane=20:10) to the title compound (1.26 mg, 32%) which was obtained as a light yellow solid. MS: m/e=392.1 [M+H]+.

reactant | 3-(3-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole | 10 mmol, 2.43 g | FC=1C=C(C=CC1)C1=NOC(=C1C=1N=CNC1)C | C13H10FN3O
reactant | 3-ethoxycarbonylphenylboronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-{5-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid ethyl ester | 1.26 mg, 32% | C(C)OC(C1=CC(=CC=C1)N1C=NC=C1C=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C22H18FN3O3
